US09353066B2
Trifluoroacetic acid (0.5 mL) was added to a cooled (0° C.) mixture of (1R)-1-(3′-amino-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)-2,2-difluoroethanol (100 mg, 0.244 mmol) and sodium cyanoborohydride (30.6 mg, 0.487 mmol) in dichloromethane (0.5 mL) at 0° C. Trifluoroacetaldehyde (85 mg, 0.731 mmol) was added to the reaction mixture, and then stirred at room temperature for 3 hours. Aqueous sodium carbonate was added to the reaction mixture, extracted with ethyl acetate and the combined organic layers were concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexanes) to give (1R)-2,2-difluoro-1-(3′-[(2,2,2-trifluoroethyl)amino]-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)ethanol as a yellow solid. MS ESI calc'd. for C21H17F8N4O [M+H] 493. found 493. 1H NMR (400 MHz, CDCl3): δ 8.66 (d, J=5.0 Hz, 1H); 7.70 (s, 1H); 7.63 (d, J=8.0 Hz, 2H); 7.52 (d, J=8.0 Hz, 2H); 7.39 (s, 1H); 7.13 (s, 1H); 7.08 (d, J=5.0 Hz, 1H); 6.65 (s, 1H); 5.83 (td, J=56.0, 4.8 Hz, 1H); 4.91 (td, J=10.1, 4.8 Hz, 1H); 3.87 (q, J=8.9 Hz, 2H).

reactant | Trifluoroacetic acid | 0.5 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | (1R)-1-(3′-amino-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)-2,2-difluoroethanol | 0.244 mmol, 100 mg | NC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C1=CC=C(C=C1)[C@H](C(F)F)O | C19H15F5N4O
reactant | sodium cyanoborohydride | 0.487 mmol, 30.6 mg | C(#N)[BH3-].[Na+]
reactant | Trifluoroacetaldehyde | 0.731 mmol, 85 mg | FC(C=O)(F)F | C2HF3O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
product | (1R)-2,2-difluoro-1-(3′-[(2,2,2-trifluoroethyl)amino]-5′-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}biphenyl-4-yl)ethanol | FC([C@H](O)C1=CC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)NCC(F)(F)F)F | C21H16F8N4O
